US04028385
According to the method reported by A. Ofner et al. in Helv. Chim. Acta., 42 2577- 2584 (1959), cis- or trans-nerolidol was prepared respectively from cis- or trans-geranylacetone. That is, in 420 ml of tetrahydrofuran was placed 12.5 g of freshly-prepared metallic magnesium turnings and 60 g of vinyl bromide was added dropwise thereto under water cooling to form a Grignard reagent. 50 g cis- or trans-geranylacetone was added dropwise thereto at 25° C. The reaction mixture was neutralized with ammonium chloride and extracted with ether. The extract was dried over sodium sulfate and distilled off under reduced pressure. The residue was subjected to vacuum distillation to give cis-nerolidol from cis-geranylacetone in a yield of 82%. The product was identified by the standard product obtained in Example 12.

reactant | trans-geranylacetone | CC(=CCC/C(=C/CCC(=O)C)/C)C | C13H22O
reactant | magnesium | 12.5 g | [Mg] | Mg
reactant | vinyl bromide | 60 g | C(=C)Br | C2H3Br
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
product | trans-nerolidol | CC(=CCC/C(=C/CCC(C)(C=C)O)/C)C | C15H26O
